US07645771B2
Preparation of 2-amino-6-fluoro-3-hydroxybenzoic acid
2-amino-6-fluorobenzoic acid (5.00 g, 32.2 mmole) was dissolved in 30 ml of 2N sodium hydroxide. To this was added dropwise a solution of sodium persulfate (7.67 g, 32.2 mmole) in 80 ml of water. After stirring over night the resulting black solution was extracted with 2 L of ether and 1 L of ethylacetate. Evaporation of the water gave a black solid that was used with no purification.

reactant | 2-amino-6-fluorobenzoic acid | 32.2 mmole, 5.00 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | sodium persulfate | 32.2 mmole, 7.67 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
solvent | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
product | 2-amino-6-fluoro-3-hydroxybenzoic acid | NC1=C(C(=O)O)C(=CC=C1O)F | C7H6FNO3
